US06008243
A solution of crude 3(R)-amino-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-succinamic acid benzyl ester trifluoroacetate salt (2.33 mmol), 2,5-dimethoxy-3-phenyl-tetrahydrofuran (583 mg, 2.80 mmol), trifluoroacetic acid (216 μL, 2.80 mmol), and water (50 μL, 2.8 mmol) in 1,2-dichloroethane (1 mL) was heated at 70° C. After 20 hours, the mixture was allowed to cool and concentrated in vacuo to give a brown oil, which was purified via flash column chromatography with 0.5% HOAc/35% EtOAc/hex as eluant to afford 407 mg (37%) of N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(R)-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester as a yellow foam. 1H NMR: a 7.52-7.44 (m, 2H), 7.38-7.15 (m, 3H), 7.04 (dd, 1H, J=1.8, 1.8 Hz), 6.78 (t, 1H, J=2.5 Hz), 6.56 (dd, 1H, J=1.6, 2.5 Hz), 6.42 (d, 1H, J=9.0 hz), 5.95 (bd, J=4.0 Hz), 5.18-5.04 (m, 3H), 4.30 (d, 1H, J=9.0 Hz), 3.38 (dd, 1H, J=5.9, 16.8 Hz), 3.10 (dd, 1H, J=8.4, 16.8 hz), 2.72 (d, 3H, J=5.0 Hz), 0.93 (s, 9H). IR: 3301, 2960, 1736, 1645, 1542, 1166, 752, 695 cm-. HRFABMS: Calculated for C28H33N3O4Cs (M+Cs+): 608.1525. Found: 608.1549. Anal. Calculated for C28H33N3O4.0.2H2O: C, 70.18; H 7.03; N, 8.77. Found: C, 70.45; H, 6.99; N, 8.84.

reactant | 3(R)-amino-N-[2,2-dimethyl-1(S)-(methylcarbamoyl)propyl]-succinamic acid benzyl ester trifluoroacetate salt | 2.33 mmol | FC(C(=O)O)(F)F.C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N)=O
reactant | 2,5-dimethoxy-3-phenyl-tetrahydrofuran | 2.80 mmol, 583 mg | COC1OC(CC1C1=CC=CC=C1)OC | C12H16O3
reactant | trifluoroacetic acid | 2.80 mmol, 216 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 2.8 mmol, 50 μL | O | H2O
solvent | 1,2-dichloroethane | 1 mL | ClCCCl | C2H4Cl2
product | N-(2,2-dimethyl-1(S)-(methylcarbamoyl)propyl)-3(R)-(3-phenyl-1H-pyrrol-1-yl)succinamic acid benzyl ester | 407 mg, 37% | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)C(NC)=O)N1C=C(C=C1)C1=CC=CC=C1)=O | C28H33N3O4
